US07919488B2
N-(1-{2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)cyclobutanecarboxamide
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine (150 mg, 0.38 mmol) in DCM (4 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by cyclobutanecarbonyl chloride (43 μL, 0.38 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 138 mg, 76%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.43-8.56 (2 H, m), 7.60-7.70 (3 H, m), 7.24-7.35 (2 H, m), 7.09-7.21 (2 H, m), 6.51 (1 H, s), 5.09-5.31 (2 H, m), 4.13 (1 H, d, J=13.39 Hz), 3.93 (2 H, s), 3.70-3.88 (2 H, m), 3.15 (1 H, t, J=11.37 Hz), 2.89-3.04 (1 H, m), 2.69-2.82 (1 H, m), 2.03-2.17 (2 H, m), 1.93-2.03 (2 H, m), 1.81-1.92 (1 H, m), 1.66-1.80 (3 H, m,) 1.29-1.48 (1 H, m), 1.13-1.27 (1 H, m); m/z (APCI+) for C27H30N5O2F 476.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine | 0.38 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N)C2=CC=NC=C2)C=C1 | C22H24FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.38 mmol, 43 μL | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)cyclobutanecarboxamide | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC(=O)C2CCC2)C2=CC=NC=C2)C=C1 | C27H30FN5O2
